US06951884B2
b) 3-Fluoro-4-(3-fluoro-benzyloxy)-benzoic acid
As described for example 18b, 3-fluoro-4-(3-fluoro-benzyloxy)-benzoic acid 3-fluoro-benzyl ester (6.9 g, 18.6 mmol) [instead of 3-fluoro-4-(4-fluoro-benzyloxy)-benzoic acid 4-fluoro-benzyl ester] was converted to the title compound (4.4 g, 90%) which was obtained as a white solid. MS: m/e=263.0 (M+).

reactant | 3-fluoro-4-(3-fluoro-benzyloxy)-benzoic acid 3-fluoro-benzyl ester | 18.6 mmol, 6.9 g | FC=1C=C(COC(C2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)F)=O)C=CC1 | C21H15F3O3
reactant | 3-fluoro-4-(4-fluoro-benzyloxy)-benzoic acid 4-fluoro-benzyl ester | FC1=CC=C(COC(C2=CC(=C(C=C2)OCC2=CC=C(C=C2)F)F)=O)C=C1 | C21H15F3O3
product | 3-Fluoro-4-(3-fluoro-benzyloxy)-benzoic acid | 4.4 g, 90% | FC=1C=C(C(=O)O)C=CC1OCC1=CC(=CC=C1)F | C14H10F2O3
